US06831080B2
Step A: (±)-N-[1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-ethyl]-3-(2-fluorophenyl)acrylamide
A mixture of 2-fluorocinnamic acid (0.5 mmol), (±)-1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)ethylamine, Preparation 13 (28.5 mg, 0.16 mmol), EDC hydrochloride (192 mg, 1 mmol), DMAP (61 mg, 0.5 mmol), and triethylamine (202 mg, 2 mmol) in CH2Cl2 was stirred for 3 days. The reaction mixture was directly subjected to purification by flash column chromatography on silica using EtOAc/Hexane (8:1) to provide the desired product (149 mg).

reactant | 2-fluorocinnamic acid | 0.5 mmol | FC1=C(C=CC(=O)O)C=CC=C1 | C9H7FO2
reactant | (±)-1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)ethylamine | O1CCNC2=C1C=CC(=C2)C(C)N | C10H14N2O
reactant | EDC hydrochloride | 1 mmol, 192 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.5 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-N-[1-(3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-ethyl]-3-(2-fluorophenyl)acrylamide | 149 mg | O1CCNC2=C1C=CC(=C2)C(C)NC(C=CC2=C(C=CC=C2)F)=O | C19H19FN2O2
